US05610144
By proceeding in a fashion similar to that described in Example 9, but starting from 3.7 g of ethyl (E)-3-{3-[2-((2RS,5SR)-2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}cinnamate in solution in 60 cm3 of methanol and 0.4 g of potassium hydroxide dissolved in 20 cm3 of water and after treatment, 1 g of (E)-3-{3-[2-((2RS,5SR)-2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}cinnamic-acid is obtained [proton NMR (250 MHz, DMSO D6, δ in ppm, J in Hz), 2 rotamers at room temperature, preponderant rotamer description, general description valid for the other products of the series: 1.5 (bs, 9H, (CH3)3 ; 1.9 and 2.2 (2m, 4H, H in position 3 and 4 on pyrrolidine); 3.2 and 3.9 (ABX, 2H, CH2N); 4.35 (dd, 1H, H in position 2 on pyrrolidine); 5.20 (dd, 1H, H in position 5 on pyrrolidine); 6.30 (dd, 1H, NH); 6.4 (bd, 1H, J=15, CH= trans); 7.1 to 7.7 (m, 10H, aromatic and CH= trans); (s, 1H, NH). Infrared spectrum (KBr), characteristic bands in cm-1 : 3380, 3075, 3030, 3700 to 2250 with a maximum at 2475, 2980, 2935, 2875, 1735, 1705, 1695, 1640, 1610, 1590, 1560, 1495, 1450, 1430, 1395, 1370, 1315, 1250, 1225, 1155, 985, 910, 890, 860, 840, 790, 760, 705, 685].

reactant | ethyl (E)-3-{3-[2-((2RS,5SR)-2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}cinnamate | 3.7 g | C(C)(C)(C)OC(=O)C1N(C(CC1)C1=CC=CC=C1)C(CNC(NC=1C=C(/C=C/C(=O)OCC)C=CC1)=O)=O | C29H35N3O6
reactant | potassium hydroxide | 0.4 g | [OH-].[K+]
solvent | methanol | 60 cm3 | CO | CH4O
solvent | water | 20 cm3 | O | H2O
product | (E)-3-{3-[2-((2RS,5SR)-2-tert-butoxycarbonyl-5-phenyl-1-pyrrolidinyl)-2-oxoethyl]ureido}cinnamic-acid | 1 g | C(C)(C)(C)OC(=O)C1N(C(CC1)C1=CC=CC=C1)C(CNC(NC=1C=C(/C=C/C(=O)O)C=CC1)=O)=O | C27H31N3O6
